US07683168B2
(4-{3-[(R)-((2S,5R)-4-Cyclopropylmethyl-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-acetic acid ethyl ester
The title compound was made by a procedure identical to that of Example 66 except that a shorter reaction time (2 hours) was used to combine 1.50 g of (4-{3-[(R)-((2S,5R)-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-acetic acid ethyl ester (3.03 mmol) and 0.43 g of cyclopropanecarboxaldehyde (6.07 mmol, 2 equiv.) to give 0.73 g (44%) of the title compound as a white solid. 1H NMR (300 MHz, d6-DMSO): □ 0.02-0.03 (t, 2H); 0.38-0.41 (d, J=7.7 Hz, 2H); 0.73-0.75 (m, 1H); 0.85-0.87 (d, J=5.8 Hz, 3H); 1.07-1.09 (d, J=6.0 Hz, 3H); 1.14-1.19 (t, 3H), 1.76-1.79 (m, 1H); 2.07-2.20 (ddd, 2H); 2.30-2.36 (dd, 1H); 2.48-2.51 (m, 6H); 2.86-2.89 (dd, 1H); 3.24 (s, 2H); 3.37-3.59 (m, 5H); 4.02-4.09 (q, 2H); 5.03 (s, 1H); 6.62-6.66 (m, 3H); 7.09-7.20 (m, 2H); 7.32-7.37 (m, 3H); 9.35 (s, 1H). Calculated for C32H44N4O4.0.20 CH2Cl2: C, 68.37; H, 7.91; N, 9.90. Found: C, 68.38; H, 7.97; N, 9.91.

reactant | (4-{3-[(R)-((2S,5R)-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-acetic acid ethyl ester | 3.03 mmol, 1.50 g | C(C)OC(CN1CCN(CC1)C(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O)N1[C@H](CN[C@@H](C1)C)C)=O)=O | C28H38N4O4
reactant | cyclopropanecarboxaldehyde | 6.07 mmol, 0.43 g, 2 equiv. | C1(CC1)C=O | C4H6O
product | (4-{3-[(R)-((2S,5R)-4-Cyclopropylmethyl-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-acetic acid ethyl ester | 0.73 g, 44% | C(C)OC(CN1CCN(CC1)C(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O)N1[C@H](CN([C@@H](C1)C)CC1CC1)C)=O)=O | C32H44N4O4
